US07781438B2
Preparation of (2-Chloro-7-hydroxy-naphthalen-1-yl)-acetic acid ethyl ester
(2-Chloro-7-methoxy-naphthalen-1-yl)-acetic acid ethyl ester (12.0 g, 43.10 mmol) and tetrabutylammonium iodide (20.7 g, 56.04 mmol) are dissolved under an atmosphere of argon in CH2Cl2 (240 ml). The reaction mixture is cooled to −78° C. and a 1 M solution of BBr3 in CH2Cl2 (108 ml, 107.77 mmol) is added during 30 minutes. After stirring at −78° C. for 15 minutes and at RT for 1 h, TLC analysis indicates complete consumption of starting material. A sat. aqueous solution of NaHCO3 (8 ml) is carefully added. The organic layer is separated, washed with brine, dried over Na2SO4 and concentrated. Purification by FCC (hexane/EtOAc4:1 to 3:2) yields the title compound. 1H NMR (CDCl3, 400 MHz): δ 1.51 (t, J=9.9 Hz, 3H), 4.43 (q, J=9.9 Hz, 2H), 4.48 (s, 2H), 6.28-6.36 (br, 1H), 7.29-7.32 (m, 1H), 7.48-7.49 (m, 1H), 7.58 (d, J=10 Hz, 1H), 7.89 (d, J=10 Hz, 1H), 7.96 (d, J=10 Hz, 1H). ES+-MS: 265.2, 267.2 [M+H]+.

reactant | (2-Chloro-7-methoxy-naphthalen-1-yl)-acetic acid ethyl ester | 43.10 mmol, 12.0 g | C(C)OC(CC1=C(C=CC2=CC=C(C=C12)OC)Cl)=O | C15H15ClO3
reactant | BBr3 | B(Br)(Br)Br | BBr3
catalyst | tetrabutylammonium iodide | 56.04 mmol, 20.7 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | CH2Cl2 | 240 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 107.77 mmol, 108 ml | C(Cl)Cl | CH2Cl2
product | (2-Chloro-7-hydroxy-naphthalen-1-yl)-acetic acid ethyl ester | C(C)OC(CC1=C(C=CC2=CC=C(C=C12)O)Cl)=O | C14H13ClO3
